US05001233
Preparation of N,N-dicyclohexylhydroxylamine
A solution of 0.057 M DMD in acetone (49.2 ml, 3.317 mmol) was added to a cold stirred solution of N,N-dicyclohexylamine (Kodak; 0.508 g, 3.317 mmol) in acetone (5 ml). The reaction mixture was stirred for ten minutes in an ice bath. The solution was dried over Na2SO4, filtered, and the solvent removed in vacuo to give a colorless crystalline solid. This solid was purified by flash chromatography on silica gel with ethyl acetate:petroleum ether (20:80) elution to give a white crystalline solid (0.457 g, 82.6% yield), mp 70-72.

reactant | N,N-dicyclohexylamine | 3.317 mmol, 0.508 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | acetone | 3.317 mmol, 49.2 ml | CC(=O)C | C3H6O
product | N,N-dicyclohexylhydroxylamine | 0.457 g, 82.6% yield | C1(CCCCC1)N(O)C1CCCCC1 | C12H23NO
